US06472386B1
Synthesis of N,N′-bis[[2-(3,4,5-Trimethoxyphenyl)oxazol-4-yl]methyl]piperazine
4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)oxazole (124 mg) and piperazine (17 mg) were treated in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)oxazole | 124 mg | ClCC=1N=C(OC1)C1=CC(=C(C(=C1)OC)OC)OC | C13H14ClNO4
reactant | piperazine | 17 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[[2-(3,4,5-Trimethoxyphenyl)oxazol-4-yl]methyl]piperazine | COC=1C=C(C=C(C1OC)OC)C=1OC=C(N1)CN1CCN(CC1)CC=1N=C(OC1)C1=CC(=C(C(=C1)OC)OC)OC | C30H36N4O8
